US09108947B2
5-ethenyl-4-methyl-2-benzofuran-1(3H)-one (1.5 g, 8.4 mmol) was added to DCM (25 mL) at 0° C. then meta-chloroperbenzoic acid (2.9 g, 17 mmol) was added and the mixture was stirred at room temperature overnight. The reaction mixture was washed once each with saturated aqueous Na2S2O3, saturated sodium bicarbonate, and brine. The organic layer was dried over Na2SO4, filtered, and evaporated to dryness. The crude material was purified by MPLC chromatography (eluting with 0-80% EtOAc/hexane solvent system) to yield 4-methyl-5-oxiran-2-yl-2-benzofuran-1(3H)-one.

reactant | 5-ethenyl-4-methyl-2-benzofuran-1(3H)-one | 8.4 mmol, 1.5 g | C(=C)C1=C(C2=C(C(OC2)=O)C=C1)C | C11H10O2
reactant | meta-chloroperbenzoic acid | 17 mmol, 2.9 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 4-methyl-5-oxiran-2-yl-2-benzofuran-1(3H)-one | CC1=C(C=CC=2C(OCC21)=O)C2OC2 | C11H10O3
